US04783549
Synthesis of ethyl 5-formyl-3-methyl-2,4-pentadienoate
75 g of the product obtained in the first step are dissolved in 500 cm3 of anhydrous hexane in a 1-liter round flask and the solution is heated to 40° C. 1.8 cm3 of boron trifluoride diethyletherate are added and 30 cm3 of ethyl vinyl ether are added in an inert atmosphere while the temperature is maintained below 50° C. After addition, stirring is continued for 1 hour at 40°-50° C. 10 g of sodium bicarbonate are added, are filtered off and the liquid is concentrated under reduced pressure. The residue thus obtained is taken up with 350 cm3 of ethyl acetate. This solution is introduced into a round flask containing 60 g of orthophosphoric acid and 250 cm3 of distilled water. The reaction mixture is heated to the reflux temperature of ethyl acetate (70°-75° C.) for 5 hours with intensive stirring and then concentrated under reduced pressure and extracted with 500 cm3 of toluene. The organic phase is washed with a sodium bicarbonate solution and then dried and concentrated under reduced pressure. 47 g of crude crystalline product are obtained. After recrystallization from hexane, 28 g of pure product corresponding to the trans-trans structure are obtained.

reactant | boron trifluoride | 1.8 cm3 | B(F)(F)F | BF3
reactant | ethyl vinyl ether | 30 cm3 | C(=C)OCC | C4H8O
reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | orthophosphoric acid | 60 g | P(O)(O)(O)=O | H3O4P
reactant | hexane | 500 cm3 | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 250 cm3 | O | H2O
solvent | ethyl acetate | 350 cm3 | C(C)(=O)OCC | C4H8O2
product | ethyl 5-formyl-3-methyl-2,4-pentadienoate | C(=O)C=CC(=CC(=O)OCC)C | C9H12O3
